datasets/10k__Tet_Int.csv
SMILES Labelled
"C[S+:10]([H])[C:20]1([O:21][Si](C)(C)(C))[O]C([H])C([H])[S]1.[Cl-]>>[Cl-].[Si](C)(C)(C)[O+:21]=[C:20]2[O]C([H])C([H])[S]2.C[S:10][H] 21=20;20,10=10"
"C[NH+:21]=[C:20]2[O][CH](C)[CH](C)C(C8=CC=CC=C8)[NH]2.[H][O:10][H].[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]1([NH:21]C)[O][CH](C)C(C)[CH](C8=CC=CC=C8)[NH]1 10=20;20,21=21"
"[OH:10]C(CCC)C([H])C(C)C(O)[C:20](OC)=[OH+:21]>>[OH:21][C:20]1(OC)C(O)C(C)C([H])C(CCC)[OH+:10]1 10=20;20,21=21"
"[H]N([C:20]1(OC(C(C([O:21]1)[H])[H])C)[O-:10])C>>[H]N([C:20](=[O:10])OC(C(C([O-:21])[H])[H])C)C 10=20;20,21=21"
"C9=CC=CC=C9[S:10][H].[H][O+:21]=[C:20]([O]C)[O]C.[Cl-]>>[Cl-].C9=CC=CC=C9[S+:10]([H])[C:20]([O:21][H])([O]C)[O]C 10=20;20,21=21"
"[H][O+:10]([H])[C:20]([NH:21][H])([O]C)[O]CC.[Cl-]>>[Cl-].[H][O:10][H].[H][NH+:21]=[C:20]([O]C)[O]CC 21=20;20,10=10"
"[O-:21][C:20]1(OCC)[NH+:10]([H])C(C)C(C)C1O>>[NH:10]([H])C(C)C(C)C([C:20](OCC)=[O:21])O 21=20;20,10=10"
"CC[S:10][H].[H][O+:21]=[C:20]([O]C8=CC=CC=C8)[S][H].[Cl-]>>[Cl-].CC[S+:10]([H])[C:20]([O:21][H])([O]C8=CC=CC=C8)[S][H] 10=20;20,21=21"
"C1(C(O[C:20]([O-:10])([O:21]C1CCCCCC)OCCCCCC)C)C1=CC=CC=C1>>C(C([O-:21])CCCCCC)(C(O[C:20](=[O:10])OCCCCCC)C)C1=CC=CC=C1 10=20;20,21=21"
"[H][S+:10]([H])[C:20]([O:21][Si](C)(C)(C))([O][H])[S]C.[Cl-]>>[Cl-].[H][S:10][H].[Si](C)(C)(C)[O+:21]=[C:20]([O][H])[S]C 21=20;20,10=10"
"C9=CC=CC=C9[NH+:10]([H])[C:20]1([NH:21][H])[O][CH](C7=CC=CC=C7)C([H])[CH](CC)[O]1.[Cl-]>>[Cl-].[H][NH+:21]=[C:20]2[O][CH](C7=CC=CC=C7)[CH]([H])C(CC)[O]2.C9=CC=CC=C9[NH:10][H] 21=20;20,10=10"
"[H][O+:10](C(C9=CC=CC=C9)C(C)C([H])[NH]1)[C:20]1([NH:21]C6=CC=CC=C6)[NH][H].[Cl-]>>[Cl-].[H][O:10]C(C9=CC=CC=C9)C(C)C([H])[NH][C:20]([NH][H])=[NH+:21]C6=CC=CC=C6 21=20;20,10=10"
"CC[O+:10]([H])[C:20]1([NH:21]C)[NH]C(C7=CC=CC=C7)C(C8=CC=CC=C8)[O]1.[Cl-]>>[Cl-].C[NH+:21]=[C:20]2[NH]C(C7=CC=CC=C7)C(C8=CC=CC=C8)[O]2.CC[O:10][H] 21=20;20,10=10"
"CC[S+:10]([H])[C:20]1([O:21][H])[S][CH](C7=CC=CC=C7)C(C)[CH]([H])[S]1.[Cl-]>>[Cl-].[H][O+:21]=[C:20]2[S][CH](C7=CC=CC=C7)[CH](C)C([H])[S]2.CC[S:10][H] 21=20;20,10=10"
"CC1C(C(O[C:20](=[O:10])N1CCCCCC)C)CCCCCC.[O-:21]CC>>CC1C(C(O[C:20](N1CCCCCC)([O-:10])[O:21]CC)C)CCCCCC 21=20;20,10=10"
"CCCCCCN([C:20]([O-:10])(OC)[O:21]C1=CC=CC=C1)[H]>>CCCCCCN([C:20](=[O:10])OC)[H].[O-:21]C1=CC=CC=C1 10=20;20,21=21"
"C[O+:21]=[C:20]2[O][CH](C)[CH]([H])C(C)[O]2.C9=CC=CC=C9[O:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[O+:10]([H])[C:20]1([O:21]C)[O][CH](C)C([H])[CH](C)[O]1 10=20;20,21=21"
"CCCCCCC1C(C(O[C:20](=[O:10])N1C)C)C.[O-:21][H]>>CCCCCCC1C(C(O[C:20](N1C)([O-:10])[O:21][H])C)C 21=20;20,10=10"
"[H][O:10]C(CC)C(C)C([H])[NH][C:20]([NH]C)=[NH+:21]CC.[Cl-]>>[Cl-].[H][O+:10](C(CC)C(C)C([H])[NH]1)[C:20]1([NH:21]CC)[NH]C 10=20;20,21=21"
"[H][O:10]C([H])C([H])C(CC)[O][C:20]([O]C)=[NH+:21]C.[Cl-]>>[Cl-].[H][O+:10](C([H])C([H])C(CC)[O]1)[C:20]1([NH:21]C)[O]C 10=20;20,21=21"
"C[NH+:21]=[C:20]2[NH]C(CC)C([H])[O]2.C[NH:10][H].[Cl-]>>[Cl-].C[NH+:10]([H])[C:20]1([NH:21]C)[NH]C(CC)C([H])[O]1 10=20;20,21=21"
"C6=CC=CC=C6[NH+:21]=[C:20]2[O]C(C7=CC=CC=C7)C(CC)[O]2.C[NH:10][H].[Cl-]>>[Cl-].C[NH+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[O]C(C7=CC=CC=C7)C(CC)[O]1 10=20;20,21=21"
"[H][O:10]C([H])C(C)[S][C:20]([O]C)=[O+:21][H].[Cl-]>>[Cl-].[H][O+:10](C([H])C(C)[S]1)[C:20]1([O:21][H])[O]C 10=20;20,21=21"
"CC[NH+:10]([H])[C:20]1([NH:21]C)[NH][CH](CC)C([H])[CH](C)[NH]1.[Cl-]>>[Cl-].C[NH+:21]=[C:20]2[NH][CH](CC)[CH]([H])C(C)[NH]2.CC[NH:10][H] 21=20;20,10=10"
"[H][S+:10](C(CC)C(CC)[O]1)[C:20]1([O:21][Si](C)(C)(C))[S]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][S:10]C(CC)C(CC)[O][C:20]([S]C7=CC=CC=C7)=[O+:21][Si](C)(C)(C) 21=20;20,10=10"
"[H][NH:10]C([H])C(C)C(C)[NH][C:20]([NH]CC)=[NH+:21][H].[Cl-]>>[Cl-].[H][NH+:10](C([H])C(C)C(C)[NH]1)[C:20]1([NH:21][H])[NH]CC 10=20;20,21=21"
"C1=CC=CC=C1C1C(C(O[C:20](=[O:10])N1[H])[H])[H].[O-:21]CC>>C1=CC=CC=C1C1C(C(O[C:20](N1[H])([O-:10])[O:21]CC)[H])[H] 21=20;20,10=10"
"[O-:21][C:20]1(OC)C([H])C([H])C([H])C(CC)[O+:10]1([Na])>>[O:10]([Na])C(CC)C([H])C([H])C([H])[C:20](OC)=[O:21] 21=20;20,10=10"
"CCCCCCC1C(C(O[C:20](=[O:10])N1[H])CC)CCCCCC.[O-:21]C>>CCCCCCC1C(C(O[C:20](N1[H])([O-:10])[O:21]C)CC)CCCCCC 21=20;20,10=10"
"[O:10]([Na])C(CCC)/C(C)=C([H])\C(C)[C:20](OC)=[O:21]>>[O-:21][C:20]1(OC)C(C)C([H])=C(C)C(CCC)[O+:10]1([Na]) 10=20;20,21=21"
"[H][NH:10]C([H])C([H])C(C)[NH][C:20]([NH]C)=[NH+:21]C6=CC=CC=C6.[Cl-]>>[Cl-].[H][NH+:10](C([H])C([H])C(C)[NH]1)[C:20]1([NH:21]C6=CC=CC=C6)[NH]C 10=20;20,21=21"
"CC[NH+:21]=[C:20]2[NH][CH](CC)[CH]([H])C(CC)[O]2.[H][NH:10][H].[Cl-]>>[Cl-].[H][NH+:10]([H])[C:20]1([NH:21]CC)[NH][CH](CC)C([H])[CH](CC)[O]1 10=20;20,21=21"
"C[O+:21]=[C:20]2[O][CH]([H])[CH]([H])C(C)[S]2.[H][S:10][H].[Cl-]>>[Cl-].[H][S+:10]([H])[C:20]1([O:21]C)[O][CH]([H])C([H])[CH](C)[S]1 10=20;20,21=21"
"CC[NH+:21]=[C:20]2[NH]C(C7=CC=CC=C7)C(C)[NH]2.CC[O:10][H].[Cl-]>>[Cl-].CC[O+:10]([H])[C:20]1([NH:21]CC)[NH]C(C7=CC=CC=C7)C(C)[NH]1 10=20;20,21=21"
"C[NH+:10]([H])[C:20]([NH:21]C6=CC=CC=C6)([O]C8=CC=CC=C8)[NH]CC.[Cl-]>>[Cl-].C[NH:10][H].C6=CC=CC=C6[NH+:21]=[C:20]([O]C8=CC=CC=C8)[NH]CC 21=20;20,10=10"
